Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulindac / Aspirin / Hycodan
 
Attending: ___.
 
Chief Complaint:
fever, cough, dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Ms. ___ is an ___ woman with a history of 
hypercholesterolemia, hypertension, chronic sinusitis, and 
chronic cough who presents with worsening shortness of breath. 
She was referred to the ED today after she was found to have a T 
101.9 and RR ___ at ___. SpO2 93-95% on RA 
was documented.  
.  
On the night prior to admission, she actually called ___ because 
she could not catch her breath. EMS came in and gave her 
nebulizers. She felt somewhat improved and refused to go to the 
emergency room. She has worsening cough and shortness of breath 
this morning. The patient denies rhinorrhea, fevers, or chills 
at home. Her cough did not improve after her AceI was 
discontinued. Her cough is now productive of whitish sputum. She 
denies CP, abdominal pain, N/V.  
.  
Of note, she was also evaluated in the ED on ___ after also 
being referred from Healthcare Associates with increased 
bilateral lower extremity edema. She underwent a work-up which 
included negative ___ and a CTA of her chest which was 
negative for PE. She was discharged to home with instructions to 
follow-up in HCA.  
.  
In the ED, she was treated with nebulizers, prednisone 60 mg, 
ceftriaxone 1g, and azithromycin 500 mg PO, and levofloxacin 750 
mg. She also received prednisone ___ RN's were unable to 
get PIV's or draw labs and a right femoral line was placed.  
 
 

 
Past Medical History:
1. Status post right shoulder replacement  
2. Status post right hip replacement.  
3. Sinusitis.  
4. GERD.  
5. Hypertension.  
6. History of glaucoma.  
7. Arthritis.  
8. CAD with normal persantine MIBI in ___.  
9. History of cataract surgery.  

 
Social History:
___
Family History:
Her family history is significant for mother with breast cancer 
at age ___ and a father who died of prostate cancer in his ___.  

 
Physical Exam:
VS: T 100.1, BP 110/64, HR 84, RR 19, SpO2 97% on 2L  
Gen: fatigued, ill-appearing, dyspneic with conversation, 
coughing spasmodically  
HEENT: clear OP, + nasal flaring  
HEENT: She has anicteric sclerae, pink conjunctivae. Her  
oropharynx is clear. She does have pale and boggy nasal mucosa.  

Her mucous membranes are moist. She has no sinus tenderness to  
pressure.  
NECK: No lymphadenopathy, no JVD or thyromegaly.  
CV: She has a regular rate and rhythm with ___  
murmur.  
Resp: reduced air movement with diffuse expiratory wheezes in 
all fields  
Abd: soft, NT/ND  
Extrem: oozing right groin line, new 2+ non-pitting lower 
extremity edema  
Rectal: guaic negative  

 
Pertinent Results:
LABS

___ 3:24 pm Influenza A/B by ___
DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Positive for Influenza A viral antigen. 
DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      NEGATIVE FOR INFLUENZA B VIRAL ANTIGEN. 
UCx negative
BCx ___ No growth

CBC
___ 06:00PM BLOOD WBC-4.6 RBC-3.34*# Hgb-9.2*# Hct-27.6*# 
MCV-83 MCH-27.6 MCHC-33.5 RDW-15.1 Plt ___
___ 05:40AM BLOOD WBC-9.4 RBC-3.89* Hgb-10.8* Hct-32.1* 
MCV-82 MCH-27.6 MCHC-33.6 RDW-16.8* Plt ___
___ 06:00PM BLOOD Neuts-77.3* Lymphs-14.5* Monos-6.3 
Eos-1.6 Baso-0.3
___ 05:40AM BLOOD Neuts-78.6* Lymphs-16.7* Monos-4.3 
Eos-0.3 Baso-0.1

CHEM 7
___ 06:00PM BLOOD Glucose-129* UreaN-7 Creat-0.9 Na-140 
K-3.0* Cl-104 HCO3-27 AnGap-12
___ 05:40AM BLOOD Glucose-185* UreaN-18 Creat-0.8 Na-143 
K-3.2* Cl-106 HCO3-28 AnGap-12

OTHER LABS
___ 12:05AM BLOOD ALT-11 AST-18 LD(LDH)-212 CK(CPK)-226* 
AlkPhos-69 TotBili-0.3
___ 12:05AM BLOOD CK-MB-3 proBNP-442
___ 12:05AM BLOOD calTIBC-351 ___ Ferritn-25 TRF-270

IMAGING
  
___ CTA CHEST:  
1. No pulmonary embolism or dissection detected. No acute lung 
parenchymal abnormalities are present. There is minimal 
atelectasis versus scarring within the left lung base.  
2. Healing left 10th rib fracture.  
3. Fatty liver.  

CXR ___: No relevant changes compared to the previous 
radiograph. No acute cardiopulmonary process.

Repeat CXR ___: In comparison with the study of ___, there is 
again some enlargement of the cardiac silhouette with tortuosity 
of the aorta and prominence of interstitial markings. No 
convincing evidence of acute pneumonia.
 
Brief Hospital Course:
___ year old ___ woman with history of chronic cough 
and reactive airway disease, post nasal drip, sinusitis, HTN, 
with exacerbation of reactive airway disease secondary to 
influenza A viral URI.

1. Exacerbation of reactive airway disease secondary to viral 
URI: 
The patient initially presented on ___ from clinic with 
fever to 101.9, worsened SOB and nonproductive cough. CTA was 
negative for PE or acute cardiopulmonary process. She was 
treated for exacerbation of reactive airway disease with 
nebs/azithromycin then was found to have nasal swab positive for 
influenza A virus. Viral infection with influenza A was the 
likely precipitant to her exacerbation of chronic cough and 
reactive airway disease with decreased peak flow measurements 
(100-200s). She had received the flu vaccine this year and did 
not have baseline peak flow measurements to compare with. There 
was no evidence of bacterial infection, although patient 
received 3 days of azithromycin for presumed reactive airway 
disease exacerbation. The patient's breathing improved with 
steroids, nebulizers, guaifenesin. She was breathing comfortably 
with good O2 sat on RA and had been afebrile with no evidence of 
other infection by UA, BCx, CXR. Urine legionella negative. 
Repeat CXR also negative for PNA. On discharge, her peak flow 
had improved from 100 to 200. She was discharged to finish the 
last 2 days of her prednisone course, albuterol inhalers prn, 
and instructions to wear a mask for the 5 days post discharge. 
In discharge, she was scheduled for an appointment with Dr. 
___ pulmonologist, for repeat lung function tests and 
evaluation, on ___.

Of note, the patient has a history of wheezing with URIs and was 
given the presumptive diagnosis of asthma in the past but with 
no relief of SOB with albuterol and corticosteroids. She was 
evaluated by pulmonology on ___ and found to have no 
obstructive pattern by PFTs. On a recent evaluation by Dr. ___ 
in allergy, her chronic cough is likely due to post-nasal drip 
and asthma. 

2. Anemia: The patient's Hct was slightly decreased this 
hospital stay (lowest of 30.9) but returned to her baseline 
without intervention. She was guiac negative and had no other 
signs of bleeding. Had Fe studies showing Fe 27, Ferritin 25 c/w 
Fe deficiency anemia. She was recommended to follow up with an 
outpatient colonoscopy to f/u on colonic adenoma polyp found in 
___.

3. Lower extremity edema: She had no evidence of CHF with no 
prior history and BNP 442. LVEF on MIBI from ___ was preserved. 
Her edema also could have been secondary to her pulmonary edema, 
OSA, or a side effect of her norvasc. Her norvasc was held and 
her blood pressures remained stable. Her edema improved on her 
normal outpatient dose of 20mg PO daily lasix but she was 
discharged with directions to take 2 days of double her 
outpatient dose of lasix and then to continue with her home dose 
and follow up with her PCP. She was also discharged off her 
norvasc with follow up with her PCP.

4. HTN: Her blood pressure remained stable off her norvasc and 
she was continued on her HCTZ and atenolol for BP control.

 
Medications on Admission:
ADVAIR DISKUS 250 mcg-50 mcg/Dose--1 inhalation every 12 hours  
ASTELIN 137 mcg--2 sprays each nostril every 12 hours  
ATENOLOL 50 mg daily  
Atorvastatin 10 mg at bedtime  
Codeine-Guaifenesin 100 mg-10 mg/5 mL--1 teaspoon by mouth qHS  
FUROSEMIDE 20 mg daily  
HYDROCHLOROTHIAZIDE 25 mg daily  
KLOR-CON 20 mEq daily  
MUCINEX ___ mg q6 hours  
NASONEX ___ mcg 2 sprays once a day  
NORVASC 5 mg daily  
OMEPRAZOLE 40 mg BID  
VITAMIN D 400 unit daily  

 
Discharge Medications:
1. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
2. Astelin 137 mcg Aerosol, Spray Sig: Two (2) sprays in each 
nostril Nasal twice a day.  
3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. Codeine-Guaifenesin ___ mg/5 mL Syrup Sig: Five (5) ML PO 
Q6H (every 6 hours) as needed for cough.
Disp:*QS ML* Refills:*0*
6. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Additional directions: take double dose of lasix on ___ and 
___. Then, go back to taking 1 pill daily.  
7. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
8. Klor-Con 20 mEq Packet Sig: One (1) packet PO once a day.  
9. Mucinex ___ mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO every six (6) hours.  
10. Nasonex ___ mcg/Actuation Spray, Non-Aerosol Sig: Two (2) 
sprays Nasal once a day.  
11. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
12. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
13. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO once a day 
for 2 days: Take this on ___ and ___.
Disp:*4 Tablet(s)* Refills:*0*
14. Albuterol 90 mcg/Actuation Aerosol Sig: ___ puffs Inhalation 
every ___ hours as needed for shortness of breath or wheezing.
Disp:*2 inhalers* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Final diagnosis
Influenza virus upper respiratory infection
Acute flare of chronic reactive airway disease

Secondary diagnosis
Anemia
Lower extremity edema
GERD

 
Discharge Condition:
Breathing improved.

 
Discharge Instructions:
You were admitted for evaluation of shortness of breath, 
worsened chronic cough and post-nasal drip. You were found to 
have viral influenza infection. You received steroids and 
albuterol nebulizer treatments in the hospital and by discharge, 
your breathing was improved.

Please continue your home medications with the following 
additions and changes:
- please take two additional days of the oral steroid called 
prednisone (last day of this will be ___
- for the next two days after discharge from the hospital 
___ and ___ take double your lasix pills. 
Then, go back to taking one lasix pill daily.
- you were prescribed an albuterol inhaler to use as needed for 
shortness of breath
- please stop taking your norvasc for now, as it may be related 
to your lower leg swelling
- Please wear a mask for the next 5 days to avoid infecting your 
close contacts with the flu virus

Please keep your follow up appointments as outlined below. You 
will need to talk to your primary care provider about making an 
appointment for a follow up colonoscopy. Also, you have an 
appointment with a lung doctor to re-evaluate your lung function 
tests.

Please call your primary care physician or return to the 
hospital if you have any fever, chills, increased shortness of 
breath or cough, or have any new or worrisome symptoms.
 
Followup Instructions:
___